US05567413
Tetraethylene Glycol Mono-10,12-tricosadiynoate
10,12-Tricosadiynoic acid (2.50 g, 0.007 mol) in tetrahydrofuran (30 ml) was reacted with oxalyl chloride (2.25 g, 0.017 mol) to obtain the corresponding acid chloride. This acid chloride (2.45 g, 0.007 mol) dissolved in anhydrous tetrahydrofuran. (10 ml) was added dropwise to a mixture of tetraethylene glycol (1.32 g, 0.007 mol) and anhydrous pyridine (0.83 g, 0.01 mol) in anhydrous tetrahydrofuran (40 ml). The mixture was stirred overnight at room temperature. The precipitated pyridinium salt was filtered off and the solvent removed under vacuum. The resulting liquid was purified by flash chromatography (silica gel/ethyl acetate) to give 1.50 g (41%) of the title compound as a colourless oil. 1H NMR (60 MHz, CDCl3): 6 0.88 (m, 3H, CH3CH2), 1.30 (m, 28H, CH2), 2.20 (m, 6H, CH2), 3.65 (s, 14H, 7×CH2O), 4.20 (m, 2H, CH2CO).

reactant | tetraethylene glycol | 0.007 mol, 1.32 g | C(COCCOCCOCCO)O | C8H18O5
reactant | pyridine | 0.01 mol, 0.83 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Tetraethylene Glycol Mono-10,12-tricosadiynoate | 1.50 g, 41% | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)OCCOCCOCCOCCO | C31H54O6
